US07638521B2
c) 3-Carboxy-1-(6-methoxyquinol-4-yl)-1H-indole
0.252 g (6 mmol) of lithium hydroxide monohydrate and 8 cm3 of water are added to 0.7 g (2.11 mmol) of 3-methoxycarbonyl-1-(6-methoxyquinol-4-yl)-1H-indole dissolved in 8 cm3 of tetrahydrofuran. After stirring at reflux for 20 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 20 cm3 of water (pH=10). The resulting aqueous solution is washed with 30 cm3 of ethyl acetate, adjusted to pH 6 with N hydrochloric acid and extracted with a mixture of 50 cm3 of ethyl acetate and of 100 cm3 of dichloroethane. The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is triturated in 20 cm3 of isopropyl ether and filtered off, resulting in 0.57 g of 3-carboxy-1-(6-methoxyquinol-4-yl)-1H-indole in the form of a white powder. Mass spectrum (EI): m/e 318 (M+•).

reactant | lithium hydroxide monohydrate | 6 mmol, 0.252 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-1-(6-methoxyquinol-4-yl)-1H-indole | 2.11 mmol, 0.7 g | COC(=O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC=C(C=C12)OC | C20H16N2O3
solvent | tetrahydrofuran | 8 cm3 | O1CCCC1 | C4H8O
solvent | water | 20 cm3, pH=10 | O | H2O
solvent | water | 8 cm3 | O | H2O
product | 3-Carboxy-1-(6-methoxyquinol-4-yl)-1H-indole | C(=O)(O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC=C(C=C12)OC | C19H14N2O3
